US07776875B2
Preparation of Intermediate racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (2.7 g, 4.5 mmol) was dissolved in THF (20 mL). Then aqueous solution (10 mL) of KOH (0.5 g) was added. The mixture was refluxed for 1 h. After cooled to room temperature, the solution was concentrated and then the residue was acidified to “pH” 2-3 by addition of concentrated aqueous HCl solution. The white solid was collected by filtration to give title compound (1.6 g).

reactant | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 4.5 mmol, 2.7 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OCC)=O)C1=C(C=CC(=C1)F)C)=O | C31H29Cl2FN2O5
reactant | KOH | 10 mL, 0.5 g | [OH-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 1.6 g | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O | C29H25Cl2FN2O5
